US07956140B2
Synthesis of the Ligand N,N-diisopropyl-2,6-dichloro-benzamidine
A solution of MeMgBr in ether (10 mL, 3.0 M, 30 mmol) was added to a solution of diisopropylamine (3.38 g, 33.5 mmol) in toluene (50 mL) at 50° C. The mixture was stirred for 1 h and a white precipitate formed. Next, the mixture was cooled to 0° C. and 2,6-dichlorobenzonitrile (5.0 g, 29 mmol) was added. The mixture was allowed to warm to room temperature and the mixture was stirred for 16 h subsequently. The conversion, determined by GC, appeared to be 100%. The mixture was quenched with an aqueous NH4Cl solution (1%, 150 mL). The organic phase was separated from the aqueous phase and the latter was extracted with CH2Cl2 (250 mL) twice. The combined organic phases were dried over Na2SO4, filtered and the solvents were removed under reduced pressure resulting in a sticky residue. Pure product 2.50 g (31%) was obtained by rinsing the residue with ligroin. A second portion of pure ligand (5.20 g (65%)) was obtained by evaporating the solvent slowly. Total yield: 7.70 g (97%). The ligand was characterized by 1H NMR (300 MHz) (CDCl3) δ (ppm): 7.3 (m, 2H), 7.1 (m, 1H), 3.6 (p, 1H), 3.2 (p, 1H), 1.6 (d, 6H), 1.1 (d, 6H) and by 13C-NMR (75.5 MHz) (CDCl3) δ (ppm) 160.7, 138.5, 132.7, 129.5, 128.6, 52.7, 46.2, 21.5, 20.2.

reactant | MeMgBr | C[Mg+].[Br-]
reactant | ether | 30 mmol, 3.0 M, 10 mL | CCOCC | C4H10O
reactant | diisopropylamine | 33.5 mmol, 3.38 g | C(C)(C)NC(C)C | C6H15N
reactant | 2,6-dichlorobenzonitrile | 29 mmol, 5.0 g | ClC1=C(C#N)C(=CC=C1)Cl | C7H3Cl2N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N,N-diisopropyl-2,6-dichloro-benzamidine | 2.50 g, 31% | C(C)(C)N(C(C1=C(C=CC=C1Cl)Cl)=N)C(C)C | C13H18Cl2N2
